US05153201
3-{β-(1-Methylimidazole-4-yl)acryloyl}amino-δ-valerolactam
To a solution of β-(1-methylimidazole-4-yl)acrylrate hydrochloride (7 g, 37.1 mmole) in dimethylformamide (60 ml) was added triethylamine (7.51 g, 74.2 mmole) and 1-hydroxybenzotriazole hydrate (6.25 g, 40.8 mmole) and the mixture was ice-cooled, and then a solution of dicyclohexylcarbodiimide (8.42 g, 40.8 mmole) in dimethylformamide (15 ml) was added dropwise. After stirring at 80° C. for 30 minutes, followed by at room temperature for 30 minutes, 3-amino-δ-valerolactam (5.08 g, 44.5 mmole) was added to the reaction mixture which was heated with stirring for 13 hours. After cooling to room temperature, a sodium bicarbonate solution was added to the mixture which was extracted with a chloroform-methanol mixed solvent. After drying over magnesium sulfate, the solvent was removed under reduced pressure. The residue was subjected to silica gel flash chromatography and then recrystallized from ethanol/chloroform to obtain the titled compound (6.72 g, 73.0%).

reactant | triethylamine | 74.2 mmole, 7.51 g | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole hydrate | 40.8 mmole, 6.25 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicyclohexylcarbodiimide | 40.8 mmole, 8.42 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-amino-δ-valerolactam | 44.5 mmole, 5.08 g | NC1CC(=O)NCC1 | C5H10N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-{β-(1-Methylimidazole-4-yl)acryloyl}amino-δ-valerolactam | 6.72 g, 73.0% | CN1C=NC(=C1)C=CC(=O)NC1CC(=O)NCC1 | C12H16N4O2
